US05461060
Preparation of 1-(methoxymethyl)-6-phenylthiothymine (Compound No. 22)
To 250 ml of methylene chloride, 25 g (0.20 mol) of thymine and 109 ml (0.44 mol) of bistrimethylsilylacetamide were added under a nitrogen flow, and stirred for 2.5 hours at room temperature. To this mixture, 24 g (0.30 mole) of chloromethyl methyl ether and 0.59 g (1.6 mmol) of tetrabutylammonium iodide were added and heated under reflux for 1.5 hours. Then, the reaction mixture was added with 400 ml of methanol and 100 ml of water slowly and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to obtain 1-(methoxymethyl)-thymine. Then, 119 ml of lithium diisopropylamide (0.25 mol) solution in tetrahydrofuran (2.1M) was added to 335 ml of tetrahydrofuran under a nitrogen flow at -70° C., to which a suspension of 17.0 g (0.10 mol) 1-(methoxymethyl)thymine in 107 ml of tetrahydrofuran was added dropwise over 30 minutes. After stirring for 2.5 hours at -70° C., the reaction mixture was added with a solution of 43.6 g of diphenyl disulfide in 49 ml of tetrahydrofuran dropwise over 20 minutes and allowed to react for 20 minutes. The reaction mixture was added with 35 ml of acetic acid, brought to room temperature and then added with 1 l of ethyl acetate. The mixture was washed with water (100 ml×5) and saturated solution of sodium hydrogencarbonate (twice), dried on magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethanol to obtain 20 g of the target compound (Yield: 73%).

reactant | lithium diisopropylamide | 0.25 mol, 119 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(methoxymethyl)thymine | 0.10 mol, 17.0 g | COCN1C(=O)NC(=O)C(C)=C1 | C7H10N2O3
reactant | diphenyl disulfide | 43.6 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 2.1M | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 107 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 49 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 335 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | 1-(methoxymethyl)-6-phenylthiothymine | 20 g, Yield: 73% | COCN1C(=S)NC(=O)C(C)=C1C1=CC=CC=C1 | C13H14N2O2S
